US08039487B2
A solution of (R)-2-[4-(4-chloro-phenyl)-thiazol-2-yl]-piperidinium trifluoroacetate (0.077 g, 0.20 mmol) in dry dichloromethane (2 mL) under argon was treated with triethylamine (0.079 g, 0.11 mL), dimethylaminopyridine (0.002 g, 0.020 mmol) and phenoxyacetyl chloride (0.033 g, 0.20 mmol). The mixture was stirred at room temperature for 16 h. The mixture was washed with water and saturated sodium chloride. The organic phase was dried over sodium sulphate and evaporated. The residual oil was purified by preparative HPLC: Column: YMC-Pack Pro C18 RS, 20×50 mm, S-5 um, 8 nm, No 200504707(W); Gradient: 0-0.4 min: 30% acetonitrile in (water+0.1% HCO2H), 0.4-2 min: increse of acetonitrile fraction from 30% to 95%, 2.4-3.7 min: 95% acetonitrile, 3.7-3.8 min: decrease of acetonitrile fraction from 95% to 30%; Program end at 4 min; Flow: 30 ml/min. 1-{(R)-2-[4-(4-Chloro-phenyl)-thiazol-2-yl]-piperidin-1-yl}-2-phenoxy-ethanone was obtained after lyophilization as a light yellow oil (0.037 g, 46%), MS (ISP): 413.1, 415.4 (M+H)+.. 1H-NMR (CDCl3, 300 MHz): 7.81 (2H, d), 7.38 (3H, m), 7.27 (2H, m), 6.98 (3H, m), 6.11+5.58 (1H, bs), 4.82 (2H, m), 4.56+3.91 (1H, bd), 3.36+2.86 (1H, bt), 2.59 (1H, m), 1.75 (5H, m).

reactant | (R)-2-[4-(4-chloro-phenyl)-thiazol-2-yl]-piperidinium trifluoroacetate | 0.20 mmol, 0.077 g | FC(C(=O)[O-])(F)F.ClC1=CC=C(C=C1)C=1N=C(SC1)[C@@H]1[NH2+]CCCC1
reactant | triethylamine | 0.11 mL, 0.079 g | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 0.020 mmol, 0.002 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | phenoxyacetyl chloride | 0.20 mmol, 0.033 g | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 1-{(R)-2-[4-(4-Chloro-phenyl)-thiazol-2-yl]-piperidin-1-yl}-2-phenoxy-ethanone | ClC1=CC=C(C=C1)C=1N=C(SC1)[C@@H]1N(CCCC1)C(COC1=CC=CC=C1)=O | C22H21ClN2O2S
